US04634710
22.6 g of sodium were dissolved in 4 l of methanol under argon. 120 g of 2,3,5-trimethyl-4-nitropyridine 1-oxide were then added portionwise thereto and the solution was left to boil under reflux overnight. The pH was adjusted to 7 by means of 5N hydrogen chloride in ethyl acetate while cooling and the mixture was then evaporated in vacuo. The residue was taken up in 1.5 l of methylene chloride, the solution was filtered through silica gel, which was rinsed with 0.5 l of methylene chloride, the combined filtrates were evaporated in vacuo and the residue was crystallized from petroleum ether. There was obtained 4-methoxy-2,3,5-trimethylpyridine 1-oxide of melting point 48°-50°.

reactant | sodium | 22.6 g | [Na] | Na
reactant | 2,3,5-trimethyl-4-nitropyridine 1-oxide | 120 g | CC1=[N+](C=C(C(=C1C)[N+](=O)[O-])C)[O-] | C8H10N2O3
reactant | hydrogen chloride | 5N | Cl | ClH
reactant | methanol | 4 l | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-2,3,5-trimethylpyridine 1-oxide | COC1=C(C(=[N+](C=C1C)[O-])C)C | C9H13NO2
